US08404680B2
Intermediate VI-3: Starting from (3aS,6aS)-rel-3-difluoromethyl-3a,4,6,6a-tetrahydro-furo[3,4-d]isoxazole and 1-bromo-2-fluorobenzene, the product (3S,3aS,6aS)-rel-3-difluoromethyl-3-(2-fluorophenyl)-hexahydro-furo[3,4-d]isoxazole was obtained as an orange oil. MS: m/z=260.2 [M+H]+.

reactant | (3aS,6aS)-rel-3-difluoromethyl-3a,4,6,6a-tetrahydro-furo[3,4-d]isoxazole | FC(C1=NO[C@H]2[C@@H]1COC2)F | C6H7F2NO2
reactant | 1-bromo-2-fluorobenzene | BrC1=C(C=CC=C1)F | C6H4BrF
product | (3S,3aS,6aS)-rel-3-difluoromethyl-3-(2-fluorophenyl)-hexahydro-furo[3,4-d]isoxazole | FC([C@@]1(NO[C@H]2[C@@H]1COC2)C2=C(C=CC=C2)F)F | C12H12F3NO2
